US04137273
Six grams of 6-methyl-5-octen-2-one is added to a solution of 3.0 g. of sodium borohydride, 80 ml. of methanol and 6 ml. of 2N sodium hydroxide solution. After about two hours, acetic acid is added to destroy excess sodium borohydride and the solution poured into water and extracted with ether. The combined ether extracts are washed with aqueous sodium bicarbonate, water and brine, dried and evaporated to yield 6-methyl-5-octen-2-ol which is purified by chromatography.

reactant | 6-methyl-5-octen-2-one | Six grams | CC(=CCCC(C)=O)CC | C9H16O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-methyl-5-octen-2-ol | CC(=CCCC(C)O)CC | C9H18O
